.subckt SMCNR_SE_2st_AMP vdda gnda vin vip ibias vout
xm1 outp outp gnda gnda nch_mac W=1.5u L=10.0u m=1.0 nf=1.0
xm3 outn outp gnda gnda nch_mac W=1.5u L=10.0u m=1.0 nf=1.0
xm7 ibias ibias vdda vdda pch_mac W=0.22u L=10.0u m=1.0 nf=1.0
xm6 net53 ibias vdda vdda pch_mac W=0.22u L=10.0u m=2.0 nf=1.0
xm5 vout ibias vdda vdda pch_mac W=0.22u L=10.0u m=10.0 nf=1.0
xm2 outn vip net53 vdda pch_mac W=7.52u L=8.24u m=1.0 nf=1.0
xm0 outp vin net53 vdda pch_mac W=7.52u L=8.24u m=1.0 nf=1.0
xm4 vout outn gnda gnda nch_mac W=1.48u L=10.0u m=10.0 nf=1.0
r0 net027 vout 100000
c0 outn net027 2p
.ends SMCNR_SE_2st_AMP
